US08022062B2
6-(3-Bromo-4-chloro-benzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylsulfanyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-bromo-4-bromomethyl-1-chloro-benzene, to give the title compound.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylsulfanyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-bromo-4-bromomethyl-1-chloro-benzene | BrC1=C(C=CC(=C1)CBr)Cl | C7H5Br2Cl
product | 6-(3-Bromo-4-chloro-benzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | BrC=1C=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=CC1Cl | C22H24BrCl2NO2S
